US07858796B2
(275) 3-{1-[(1,2-dimethyl-1H-imidazol-4-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
Following the general procedure in example 267, 5-phenyl-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole-7-carboxamide (32 mg, 0.1 mmol), 1,2-dimethyl-1H-imidazole-4-sulfonyl chloride (22.8 mg, 0.15 mmol) and triethylamine (0.06 mL, 0.3 mmol) were reacted to form the desired product which was purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) (11 mg, 23%).

reactant | 5-phenyl-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole-7-carboxamide | 0.1 mmol, 32 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C=1CCNCC1 | C20H19N3O
reactant | 1,2-dimethyl-1H-imidazole-4-sulfonyl chloride | 0.15 mmol, 22.8 mg | CN1C(=NC(=C1)S(=O)(=O)Cl)C | C5H7ClN2O2S
reactant | TEA | 0.3 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
product | 3-{1-[(1,2-dimethyl-1H-imidazol-4-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | CN1C(=NC(=C1)S(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N)C | C25H27N5O3S
